US05792767
3-[2-(cis-6-Methoxy-2,3,3a,4,5,9b-hexahydro-[1H]-benz[e]isoindol-1-yl)ethyl]-[1H,3H]-quinazoline-2,4(1H,3H)-dione hydrochloride
2-Carboethoxy-phenylisocyanate (0.20 g, 1.0 mmol) was prepared by the reaction of 2-carboethoxyaniline and triphosgene in toluene at reflux, followed by removing the solvent in vacuo. The isocyanate and the compound resulting from Example 1B (0.24 g, 1.0 mmol) were combined in 40 mL of toluene and heated at reflux for 3 hours. The product was then partitioned between 5% NaHCO3 and hot ethyl acetate, and the organic phase was dried (K2CO3) and evaporated. The resulting product was converted to its hydrochloride salt and recrystallized from ethanol-ether to yield 0.12 g of the title compound as a white solid. 1H NMR (300 MHz, DMSO-d6) δ 7.92 (d, 1H), 7.65 (t, 1H), 7.12-7.27 (m, 2H), 7.08 (t, 1H), 6.72 (dd, 2H), 4.02 (t, 2H), 3.73 (s, 3H), 3.12-3.3 (m, 3H), 2.52-2.65 (m, 3H), 2.38-2.48 (m, 2H), 2.1-2.3 (m, 2H), 1.57-1.68 (m, 1H), 1.37-1.5 (m, 1H). Anal calcd for C23H25N3O3 ·HCl·H2O: C, 61.95; H, 6.33; N, 9.42. Found: C, 61.94; H, 6.10; N, 9.18.

reactant | 2-carboethoxyaniline | C(=O)(OCC)C1=C(N)C=CC=C1 | C9H11NO2
reactant | triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Carboethoxy-phenylisocyanate | 1.0 mmol, 0.20 g | C(=O)(OCC)C1=C(C=CC=C1)N=C=O | C10H9NO3
